US07951829B2
(E)-N-(2-{3-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-3H-benzimidazol-5-yl}-phenyl)-methanesulfonamide (Cpd 443)
Using the procedure of Example 1, Step B, the title compounds were prepared from a mixture of (E)-5-bromo-1-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazole and (E)-6-bromo-1-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazole and 2-methylsulfonylaminophenyl boronic acid.

reactant | (E)-5-bromo-1-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazole | BrC1=CC2=C(N(C(=N2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C)C=C1 | C17H12BrF3N2
reactant | (E)-6-bromo-1-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazole | BrC=1C=CC2=C(N(C(=N2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C)C1 | C17H12BrF3N2
reactant | 2-methylsulfonylaminophenyl boronic acid | CS(=O)(=O)NC1=C(C=CC=C1)B(O)O | C7H10BNO4S
product | (E)-N-(2-{3-methyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-3H-benzimidazol-5-yl}-phenyl)-methanesulfonamide | CN1C(=NC2=C1C=C(C=C2)C2=C(C=CC=C2)NS(=O)(=O)C)\C=C\C2=CC=C(C=C2)C(F)(F)F | C24H20F3N3O2S
